### PR TITLE
feat(Combinatorics/SimpleGraph): every circuit contains a cycle proof 

### PR DESCRIPTION
**Pull request by kirilvino**
circuit to cycle proof

---
This PR uses the bypass definition in a new function for closed walks that removes repeated vertices. Then proves if the closed walk given is a circuit, that the result from this function is a cycle. This is then packaged up similar to the existing ToPath definition, creating a way of transforming a circuit into a cycle.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Path.lean [hunk 1]
```diff
@@ -645,6 +645,41 @@ theorem edges_toPath_subset {u v : V} (p : G.Walk u v) : (p.toPath : G.Walk u v)
...
+namespace Walk
+
+variable {G} [DecidableEq V]
+
+/-- Given a closed walk, produces a closed walk removing subwalks between repeated vertices
+through the use of the bypass definition.
+If the walk provided is a circuit, this results in a cycle, as
+seen in `SimpleGraph.Walk.isCycle_shortcircuit`
+This idea is packaged up in `SimpleGraph.Walk.ToCycle`. -/
+def shortcircuit {u : V} : G.Walk u u → G.Walk u u
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Path.lean:662]:
```suggestion
def shortCircuit {u : V} : G.Walk u u → G.Walk u u
```

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Path.lean:662]: This is closer to the usual naming style for mathlib! Note you'll need to adjust in the next lemma too (and that one should be `isCycle_shortCircuit`

File: Mathlib/Combinatorics/SimpleGraph/Path.lean [hunk 2]
```diff
@@ -645,6 +645,41 @@ theorem edges_toPath_subset {u v : V} (p : G.Walk u v) : (p.toPath : G.Walk u v)
...
+
+theorem isCycle_shortcircuit {u : V} (p : G.Walk u u) (h : p.IsCircuit) :
+    p.shortcircuit.IsCycle :=
+  match p, h.ne_nil with
+  | cons (v := v) ha p, _ => by
+    contrapose h
+    suffices s(u, v) ∈ p.edges by simp [isCircuit_def, this]
+    have : s(u, v) ∈ p.bypass.edges := by
+      simpa [shortcircuit, cons_isCycle_iff, bypass_isPath] using h
+    exact (edges_bypass_subset p) this
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Path.lean:674]:
```suggestion
    exact edges_bypass_subset p this
```
These parentheses weren't necessary!

**Comment by b-mehta** [comment]
Thanks for this PR, the `shortCircuit` definition is one we should have in mathlib, but I have suggested a few changes above.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.
